US04175089
Styrene in an amount of 2.1 grams and 11.65 grams of manganic acetate, Mn(C2H3O2)3.2H2O, comprising two equivalents of Mn+3 based on titration value, were refluxed under nitrogen in 200 milliliters of propionic acid containing 20 grams of potassium propionate. In less than an hour, a 50% yield of alpha-methyl-gamma-phenyl butyrolactone was obtained.

reactant | Styrene | C=CC1=CC=CC=C1 | C8H8
reactant | potassium propionate | C(CC)(=O)[O-].[K+]
solvent | propionic acid | 200 milliliters, 20 grams | C(CC)(=O)O | C3H6O2
catalyst | Mn+3 | two equivalents | [Mn+3]
product | alpha-methyl-gamma-phenyl butyrolactone | 50% yield | CC1C(=O)OC(C1)C1=CC=CC=C1 | C11H12O2
